US07335680B2
Intermediate 15.1: 1-Butylcyclobutanecarboxylic Acid.
To 6.26 g (37.6 mmol) of crude 1-(1-butylcyclobutyl)prop-2-yn-1-ol in DMF (20 mL) were added imidazole (3.1 g, 45.2 mmol) and tert-butyldimethylsilyl chloride (6.8 g, 45.2 mmol). The reaction mixture was stirred at RT overnight, then concentrated to remove DMF, diluted with 100 ml of EtOAc, and added 100 mL of sat. aq. NH4Cl. After separation, the aq. phase was extracted with EtOAc (2×100 mL). The combined organic phase was washed with 50 mL of brine, dried (Na2SO4), concentrated. Flash chromatography over silica gel of the crude product (eluted with hexanes) afforded the title intermediate (6.82 g, 58% 3 steps) as colorless oil.

reactant | 1-(1-butylcyclobutyl)prop-2-yn-1-ol | 37.6 mmol, 6.26 g | C(CCC)C1(CCC1)C(C#C)O | C11H18O
reactant | imidazole | 45.2 mmol, 3.1 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 45.2 mmol, 6.8 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-Butylcyclobutanecarboxylic Acid | 6.82 g, 58% | C(CCC)C1(CCC1)C(=O)O | C9H16O2
